US03956498
A mixture of chloroacetamide oxime, 11.0 g. (0.10 mole), and ethyl phenyliminoacetate hydrochloride, 22 g. (0.11 mole), in 80 ml. of absolute ethanol is refluxed for one hour. After cooling, the ammonium chloride which precipitates is filtered off and the alcohol is removed in vacuo. Upon steam distillation of the residue, 7.0 gm. of 3-chloromethyl-5-benzyl-1,2,4-oxadiazole is obtained, n20 1.5386.

reactant | chloroacetamide oxime | ClCC(N)=NO | C2H5ClN2O
reactant | ethyl phenyliminoacetate hydrochloride | Cl.C1(=CC=CC=C1)N=CC(=O)OCC
reactant | ethanol | C(C)O | C2H6O
product | 3-chloromethyl-5-benzyl-1,2,4-oxadiazole | ClCC1=NOC(=N1)CC1=CC=CC=C1 | C10H9ClN2O
